US06596738B1
Under N2, to a solution of 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-hydroxyindol-1-yl)-2-butyl]imidazole-4-carboxamide (80 mg, 0.187 mmol) in DMF (5 ml) was added potassium carbonate (38.7 mg, 0.280 mmol) at room temperature. The reaction mixture was stirred for 30 minutes. And then 1-iodobutane (51.5 mg, 0.280 mmol) was added and the resulting mixture was stirred for 24 hours at 60-80° C. The reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (sodium sulfate) and evaporated in vacuo. The residue was purified by silica gel (3 g) chromatography eluting with chloroform/methanol (50:1) to give 1-[(R)-4-(6-butoxyindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide (66.3 mg, 73.3%).

reactant | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-hydroxyindol-1-yl)-2-butyl]imidazole-4-carboxamide | 0.187 mmol, 80 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=CC2=CC=C(C=C12)O)N1C=NC(=C1)C(=O)N | C22H32N4O3Si
reactant | potassium carbonate | 0.280 mmol, 38.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodobutane | 0.280 mmol, 51.5 mg | ICCCC | C4H9I
reactant | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[(R)-4-(6-butoxyindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide | 66.3 mg, 73.3% | C(CCC)OC1=CC=C2C=CN(C2=C1)CC[C@H](CO[Si](C)(C)C(C)(C)C)N1C=NC(=C1)C(=O)N | C26H40N4O3Si
